US07622469B2
2,4-Diamino-1,6-dihydro-1-(2′,3′,4′-trifluorophenyl)-6-decyl-1,3,5-triazine hydrochloride
100 ml of ethanol, 4.8 g (28.2 mmol) of 1-undecanal and 0.8 ml of concentrated hydrochloric acid were added to 5.0 g (18.7 mmol) of N1-(2,3,4-trifluorophenyl)-biguanide hydrochloride, and the mixture was refluxed for 24 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.5)), and recrystallized from 80% aqueous acetonitrile to obtain 3.2 g of colorless crystals having a melting point of 210 to 213° C.

reactant | 1-undecanal | 28.2 mmol, 4.8 g | C(CCCCCCCCCC)=O | C11H22O
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N1-(2,3,4-trifluorophenyl)-biguanide hydrochloride | 18.7 mmol, 5.0 g | Cl.FC1=C(C=CC(=C1F)F)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-Diamino-1,6-dihydro-1-(2′,3′,4′-trifluorophenyl)-6-decyl-1,3,5-triazine hydrochloride | 3.2 g | Cl.NC=1N(C(N=C(N1)N)CCCCCCCCCC)C1=C(C(=C(C=C1)F)F)F | InChI=1S/C19H28F3N5.ClH/c1-2-3-4-5-6-7-8-9-10-15-25-18(23)26-19(24)27(15)14-12-11-13(20)16(21)17(14)22;/h11-12,15H,2-10H2,1H3,(H4,23,24,25,26);1H
